US07932271B2
(2-Amino-5-chloropyridin-4-yl)(2,5-difluorophenyl)methanol
To a mixture of a hexane solution (1.58M, 8.41 ml, 13.3 mmol) of n-butyl lithium and tetrahydrofuran (40 ml) was added diisopropylamine (1.86 ml, 13.3 mmol) at −78° C. After the resulting mixture was stirred at 0° C. for 1 hour, the reaction mixture was cooled to −78° C. To the reaction mixture was added a tetrahydrofuran (10 ml) solution of 5-chloro-2-(2,2,5,5-tetramethyl-1,2,5-azadisilolidin-1-yl)pyridine (3.27 g, 12.1 mmol). At the same temperature, the resulting mixture was stirred for 1 hour. Then, a tetrahydrofuran (10 ml) solution of 2,5-difluorobenzaldehyde (1.89 g, 13.3 mmol) was added to the reaction mixture. After stirring at the same temperature for 30 minutes, 1N hydrochloric acid (50 ml) was added at 0° C. To the reaction mixture was added a 1N aqueous solution (100 ml) of sodium hydroxide. The product thus obtained was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was washed with a mixed solvent of dichloromethane/hexane, and collected by filtration to give the title compound (1.76 g, 6.50 mmol, 54%) as a white solid.

reactant | hexane | 13.3 mmol, 1.58M, 8.41 ml | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 13.3 mmol, 1.86 ml | C(C)(C)NC(C)C | C6H15N
reactant | 5-chloro-2-(2,2,5,5-tetramethyl-1,2,5-azadisilolidin-1-yl)pyridine | 12.1 mmol, 3.27 g | ClC=1C=CC(=NC1)N1[Si](CC[Si]1(C)C)(C)C | C11H19ClN2Si2
reactant | 2,5-difluorobenzaldehyde | 13.3 mmol, 1.89 g | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (2-Amino-5-chloropyridin-4-yl)(2,5-difluorophenyl)methanol | 6.50 mmol, 1.76 g, 54% | NC1=NC=C(C(=C1)C(O)C1=C(C=CC(=C1)F)F)Cl | C12H9ClF2N2O
